US08461158B2
A stirred mixture of 0.44 g (2.2 mmol) of 2-(difluoromethyl)-4-methoxy-1H-benzimidazole, 0.47 g (1.1 mmol) of tert-butyl 4-[6-chloro-4-(4-morpholinyl)-1H-pyrazolo[3,4-d]pyrimidin-1-yl]-1-piperidinecarboxylate (WO 2008/115974), and 0.61 g (4.4 mmol) of powdered K2CO3 in 10 mL of DMSO was heated at 160° C. for 20 hrs. After cooling, the mixture was diluted with water, and the precipitate was collected by filtration, washed with water, and dried. Chromatography on silica eluting with CH2Cl2/EtOAc (17:3) gave 0.20 g (31% yield) of tert-butyl 4-[6-[2-(difluoromethyl)-4-methoxy-1H-benzimidazol-1-yl]-4-(4-morpholinyl)-1H-pyrazolo[3,4-d]pyrimidin-1-yl]-1-piperidinecarboxylate: mp (MeOH) 245-247° C.; 1H NMR (CDCl3) δ 7.99 (s, 1H), 7.84 (dd, J=8.4, 0.6 Hz, 1H), 7.47 (t, JHF=53.6 Hz, 1H), 7.37 (t, J=8.2 Hz, 1H), 6.83 (d, J=7.8 Hz, 1H), 4.87 (tt, J=11.4, 4.1 Hz, 1H), 4.32 (m, 2H), 4.07 (s, 3H), 4.06 (m, 4H), 3.91 (m, 4H), 2.99 (m, 2H), 2.23 (dq, J=12.3, 4.5 Hz, 2H), 2.02 (m, 2H), 1.49 (s, 9H); Anal. Calcd. for C28H34F2N8O4: C, 57.5; H, 5.9; N, 19.2. Found: C, 57.2; H, 6.0; N, 19.0%.

reactant | 2-(difluoromethyl)-4-methoxy-1H-benzimidazole | 2.2 mmol, 0.44 g | FC(C1=NC2=C(N1)C=CC=C2OC)F | C9H8F2N2O
reactant | tert-butyl 4-[6-chloro-4-(4-morpholinyl)-1H-pyrazolo[3,4-d]pyrimidin-1-yl]-1-piperidinecarboxylate | 1.1 mmol, 0.47 g | ClC1=NC(=C2C(=N1)N(N=C2)C2CCN(CC2)C(=O)OC(C)(C)C)N2CCOCC2 | C19H27ClN6O3
reactant | K2CO3 | 4.4 mmol, 0.61 g | C(=O)([O-])[O-].[K+].[K+]
reactant | CH2Cl2 EtOAc | C(Cl)Cl.CCOC(=O)C
solvent | DMSO | 10 mL | CS(=O)C | C2H6OS
solvent | water | O | H2O
product | tert-butyl 4-[6-[2-(difluoromethyl)-4-methoxy-1H-benzimidazol-1-yl]-4-(4-morpholinyl)-1H-pyrazolo[3,4-d]pyrimidin-1-yl]-1-piperidinecarboxylate | 0.20 g, 31% yield | FC(C1=NC2=C(N1C1=NC(=C3C(=N1)N(N=C3)C3CCN(CC3)C(=O)OC(C)(C)C)N3CCOCC3)C=CC=C2OC)F | C28H34F2N8O4
